US08003685B2
To a solution of 5-(3,3-dimethyl-but-1-ynyl)-3-[(cis-4-methanesulfonyloxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (1.16 g, 2.00 mmol) in 10 ml of DMF is added sodium azide (0.65 g, 10 mmol). The reaction mixture is stirred for 48 h at 50° C. The mixture is diluted with ethyl acetate, washed 3 times with water and 1 time with brine. The organic layer is dried with sodium sulfate, filtered and concentrated under reduce pressure to give 3-[(trans-4-azido-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-(3,3-dimethyl-but-1-ynyl)-thiophene-2-carboxylic acid methyl ester.

reactant | 5-(3,3-dimethyl-but-1-ynyl)-3-[(cis-4-methanesulfonyloxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 2.00 mmol, 1.16 g | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@@H](CC1)OS(=O)(=O)C)C#CC(C)(C)C | C27H39NO6S2
reactant | sodium azide | 10 mmol, 0.65 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(trans-4-azido-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-(3,3-dimethyl-but-1-ynyl)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)N=[N+]=[N-])C#CC(C)(C)C | C26H36N4O3S
